US07842817B2
(3,4-Difluorobenzyl)-[1-(3,4-difluorophenyl)-1H-benzoimidazol-2-yl]amine
1-(3,4-Difluorophenyl)-1H-benzoimidazol-2-ylamine, prepared as described in Procedure E (Scheme 5, Steps A-C), was dissolved in acetonitrile, added 3,4-difluorobenzaldehyde (1 eq), sodium triacetoxyborohydride (2 eq) and a catalytic amount of AcOH. The reaction mixture was heated in a sealed vial by means of MW irradiation at 100° C. for 25 min. Saturated aqueous NaHCO3 was added and the mixture extracted with EtOAc. The combined organic phases were dried (MgSO4), filtered, concentrated in vacuo and purified by preparative LCMS to give the title compound as the free base (solid, mp 158.5-159.5° C.). MS(ES+) m/z 372 ([M+1]+, 100). 1NMR (DMSO-d6) δ 4.50 (d, 2H), 6.85-6.92 (m, 2H), 6.99-7.15 (m, 2H), 7.20-7.46 (m, 5H), 7.68-7.74 (m, 1H), 7.78-7.83 (m, 1H).

reactant | 1-(3,4-Difluorophenyl)-1H-benzoimidazol-2-ylamine | FC=1C=C(C=CC1F)N1C(=NC2=C1C=CC=C2)N | C13H9F2N3
reactant | 3,4-difluorobenzaldehyde | 1 eq | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | AcOH | CC(=O)O | C2H4O2
product | (3,4-Difluorobenzyl)-[1-(3,4-difluorophenyl)-1H-benzoimidazol-2-yl]amine | FC=1C=C(CNC2=NC3=C(N2C2=CC(=C(C=C2)F)F)C=CC=C3)C=CC1F | C20H13F4N3
